US06355799B1
Preparation of 4-chloro-3,6difluoro-2-nitroaniline (V)
Ethyl 4-chloro-3,6-difluoro-2-nitrophenylcarbamate (XLI) (0.9 g, 3.2 mmol) was mixed with acetic acid (30 ml) and hydrobromic acid (48%, 25 ml), the mixture was stirred at 150° C. for 4 hr and then the volume reduced to half by evaporation Ethyl acetate (50 ml) was added and the solution was washed with water (15 ml×3) and dried over sodium sulfate. The product was purified by column chromatography (silica gel, hexane) (0.56 g). 1H NMR (CDCl3, 300 MHz) 5.73 (2H, br), 7.24 (1H, dd, J=6.1, 6.1 Hz) ppm.

reactant | Ethyl 4-chloro-3,6-difluoro-2-nitrophenylcarbamate | 3.2 mmol, 0.9 g | ClC1=C(C(=C(C(=C1)F)NC(OCC)=O)[N+](=O)[O-])F | C9H7ClF2N2O4
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-3,6difluoro-2-nitroaniline | ClC1=C(C(=C(N)C(=C1)F)[N+](=O)[O-])F | C6H3ClF2N2O2
